US07375134B2
To a solution of dibromobenzene (760 mg, 3.2 mmol) in dry ether was added 2.5 M solution of nBuLi in hexanes (1.3 mL, 3.2 mmol) at −30° C. After stirring for 1 h, a solution of [3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butyl]-thiazol-2-ylmethylene-amine (500mg, 1.6 mmol) in 5 mL of dry ether was added slowly. The reaction mixture was allowed to stir at the same temperature for 2 h and then the reaction was quenched with water and extracted with ethyl acetate. The organic layer was washed with saturated NaCl and dried over MgSO4. The solvent was evaporated in vacuo. The crude was flash column chromatographed using 2:1 hexanes:EtOAc as an eluant to get [(4-bromo-phenyl)-thiazol-2-yl-methyl]-[3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butyl]-amine as a pale yellow solid.

reactant | dibromobenzene | 3.2 mmol, 760 mg | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | nBuLi | [Li]CCCC
reactant | [3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butyl]-thiazol-2-ylmethylene-amine | 1.6 mmol, 500mg | CC(CC(C12OCC(CO1)(CO2)C)N=CC=2SC=CN2)C | C15H22N2O3S
solvent | ether | CCOCC | C4H10O
solvent | ether | 5 mL | CCOCC | C4H10O
product | [(4-bromo-phenyl)-thiazol-2-yl-methyl]-[3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butyl]-amine | BrC1=CC=C(C=C1)C(C=1SC=CN1)NC(CC(C)C)C12OCC(CO1)(CO2)C | C21H27BrN2O3S
